US06962935B2
Part D. Preparation of 3-(3-cyanophenyl)-isoxazole-5-carboxylic acid.
A mixture of 0.90 g (3.9 mmol) of 4-carbomethoxy-3-(3-cyanophenyl)isoxazole, 0.25 g (6.0 mmol) of lithium hydroxide monohydrate in 1 mL water and 2 mL methanol is stirred under N2 for 5 hours. The reaction mixture was acidified to pH 3 with 1N HCl, extracted with 10 mL EtOAc three times, dried with MgSO4 and concentrated in vacuo to give 0.36 g (43%) of the desired acid. 1H NMR (CDCl3) δ: 8.94 (s, 1H); 8.01 (s, 1H); 7.94 (d, 1H); 7.60 (d, 2H); 7.43 (t, 1H).

reactant | 4-carbomethoxy-3-(3-cyanophenyl)isoxazole | 3.9 mmol, 0.90 g | C(=O)(OC)C=1C(=NOC1)C1=CC(=CC=C1)C#N | C12H8N2O3
reactant | lithium hydroxide monohydrate | 6.0 mmol, 0.25 g | O.[OH-].[Li+]
reactant | HCl | 1N | Cl | ClH
reactant | methanol | 2 mL | CO | CH4O
solvent | water | 1 mL | O | H2O
product | 3-(3-cyanophenyl)-isoxazole-5-carboxylic acid | 0.36 g, 43% | C(#N)C=1C=C(C=CC1)C1=NOC(=C1)C(=O)O | C11H6N2O3
